2190-12-21 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - surgery: no acute surgical intervention at this time
   - transitioned to sc insulin later in evening
   - head ct: prelim neg for acute process
   - spoke with family, daughter very distraught, social work c/s
   - placed RIJ and had to pull it back a few centimeters, pulled right
   subclav
   - started on labetalol for sbps to 190
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-21**] 05:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-20**] 09:45 AM
   Dextrose 50% - [**2190-12-20**] 07:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-21**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 39.4
C (103
   Tcurrent: 38.2
C (100.8
   HR: 86 (75 - 98) bpm
   BP: 172/72(96) {141/52(76) - 205/105(121)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (2 - 118)mmHg
   Total In:
                                                                 16,651 mL
                                                                    973 mL
   PO:
   TF:
   IVF:
                                                                 10,601 mL
                                                                    973 mL
   Blood products:
   Total out:
                                                                  1,344 mL
                                                                    540 mL
   Urine:
                                                                    944 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 15,307 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 512 (500 - 512) mL
   Vt (Spontaneous): 530 (512 - 680) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///15/
   Ve: 14.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.5 g/dL
   241 mg/dL
   3.8 mg/dL
   15 mEq/L
   5.6 mEq/L
   55 mg/dL
   114 mEq/L
   140 mEq/L
   29.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2190-12-20**]  03:17 AM
                             [**2190-12-20**]  04:44 AM
                             [**2190-12-20**]  04:53 AM
                             [**2190-12-20**]  06:49 AM
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
   WBC
   12.9
   16.4
   14.0
   Hct
   27.2
   29.2
   29.6
   Plt
   [**Telephone/Fax (3) 12614**]
   Cr
   4.0
   3.9
   3.8
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   TCO2
   17
   Glucose
   736
   677
   495
   343
   189
   52
   148
   153
   241
   Other labs: PT / PTT / INR:11.7/26.8/1.0, ALT / AST:33/64, Alk Phos / T
   Bili:84/0.2, Amylase / Lipase:702/593, Differential-Neuts:91.3 %,
   Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.0
   g/dL, LDH:345 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: ABG: pH 7.33
    pCO2 35
   pO2 50
   HCO3 19
   Osms:318
   Lip: 593
   Alb: 2.0
   Microbiology: Blood, sputum, urine culture w/ NGTD
   Assessment and Plan
   The patinet is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented markedly elevated
   blood sugars, well above critical values.  No clear precipitant from
   family garnered history.  Patient's profile of metabolic acidosis
   consistent with diabetic ketoacisosis, with moderate urine ketones and
   an anion gap acidosis.  That being said, the degree of hyperglycemis is
   far out of range expected with DKA, and more in line with that seen in
   hyperosmolar hyperglycemic state.  Also consistent with such a
   diagnosis is the serums osms of 360.  The patient is really presenting
   with a mixed picture.  Blood glucose corrected in first 24 hrs with
   insulin gtt, and was transitioned to sc insulin.  Sugars are now
   rebounding, w/ BG up to 350.
   -- initiate basal glucose and start ss/ c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**], likely will restart
   gtt
   -- patient is currently adequately resuscitated after 15L of fluid
   -- will follow serial chemistry panels, venous pH, anion gap, and osms,
   but q6hs now that anion gap has closed and osms inproved
   -- will check q1h FS
   -- [**Last Name (un) 7013**] high serum osms are most certainly due to high glucose levels,
   does have a osm gap of 24.  Nothing to suggest toxic ingestion risk
   factors, but will d/w renal if further work up is indicated.
   .
   # Metabolic Acidosis:  Again, as above, likely from DKA.  Potiential
   sources of anion gap acidosis are ketones, lactate, and uremia or
   possible toxic ingestion.  Will continue to correct sugars, rehydrate
   patient, and trend anion gap.
   .
   # Altered Mental Status:  Precipitating symptoms likely from a
   combination of electrolyte abnormaltities, hyperglycemia, as most
   imprornatly hyperosmomar gap with cerebral dehydration.  Currently off
   sedation, and is unresponsive.  Has facial and left arm myoclonos vs.
   sz.  Gave 2mg IV ativan.
   -- c/s neuro
   -- Correct metabolic derangments and continue to follow.
   .
   # Elevated Lipase:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   .
   # Fevers:  No clear infectious source, and all cultures currently
   pending.  [**Month (only) 51**] have aspirated, w/ thick secretions, when was w/ AMS.
   Also, with risk factors for central fevers given current unresponsive
   state and electrolyte derangement.
   - f/u pan-culture
   - cont [**Doctor Last Name **]/zosyn and narrow pending cultures
   .
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - continue to trend
   - avoid nephrotoxic meds
   - hold home lisinopril
   .
   # HL: cont home statin, hold ASA
   .
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, R SCL from OSH will need to be replaced
   # CODE:  Full Code
   # CONTACT: Brother is HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-21 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: DKA/electrolyte disturbances/altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2190-12-20**] 09:00 AM
 BLOOD CULTURED - At [**2190-12-20**] 10:50 AM
 MULTI LUMEN - START [**2190-12-20**] 05:22 PM
 MULTI LUMEN - STOP [**2190-12-20**] 08:11 PM
 FEVER - 103.0
F - [**2190-12-20**] 10:00 PM
 Head CT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-21**] 05:50 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2190-12-20**] 07:32 PM
   Pantoprazole (Protonix) - [**2190-12-21**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-21**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 39.4
C (103
   Tcurrent: 37.9
C (100.2
   HR: 83 (75 - 98) bpm
   BP: 158/59(84) {141/52(76) - 205/105(121)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (2 - 118)mmHg
   Total In:
                                                                 16,651 mL
                                                                  1,078 mL
   PO:
   TF:
   IVF:
                                                                 10,601 mL
                                                                  1,028 mL
   Blood products:
   Total out:
                                                                  1,344 mL
                                                                    775 mL
   Urine:
                                                                    944 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 15,307 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 512 (512 - 512) mL
   Vt (Spontaneous): 664 (512 - 664) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///15/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   206 K/uL
   241 mg/dL
   3.8 mg/dL
   15 mEq/L
   5.6 mEq/L
   55 mg/dL
   114 mEq/L
   140 mEq/L
   29.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2190-12-20**]  03:17 AM
                             [**2190-12-20**]  04:44 AM
                             [**2190-12-20**]  04:53 AM
                             [**2190-12-20**]  06:49 AM
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
   WBC
   12.9
   16.4
   14.0
   Hct
   27.2
   29.2
   29.6
   Plt
   [**Telephone/Fax (3) 12614**]
   Cr
   4.0
   3.9
   3.8
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   TCO2
   17
   Glucose
   736
   677
   495
   343
   189
   52
   148
   153
   241
   Other labs: PT / PTT / INR:11.7/26.8/1.0, ALT / AST:33/64, Alk Phos / T
   Bili:84/0.2, Amylase / Lipase:702/593, Differential-Neuts:91.3 %,
   Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:2.0
   g/dL, LDH:345 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Imp:
   1. Hyperglycemia/DKA:
   -off insulin drip, on sc insulin
   -gap closed
   -glucose levels sig improved from admission but not yet optimal
   -[**Last Name (un) 303**] consulted
   -broad spectrum abx for possible infxn as precipitant- continue for
   now, consider dc'ing in 24-48 h if cultures negative
   2. AMS secondary to sedation/DKA
   - holding sedating meds
   - not responding to painful stim
   - CT head unrevealing
   - Neuro consult
   3. elevated lipase/amylase c/w pancreatitis:
   - enzymes trending downward
   - surgery following
   - CT consistent
   4. Acute respiratory failure: intubated for airway
   -Current vent settings adequate
   -Wean oxygen, SBT once more alert
   5. Renal failure
   6. Fever
   - pan cx
   - empiric coverage pending cx data guidance
   7. Hypertension
   -required start labetolol last night
   Remainder of plan per housetaff note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2190-12-22 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spoke to PCP, [**Name10 (NameIs) **] history of alcohol/drug abuse or suicidality
   - spoke to family; he was depressed recently because his license was
   suspended, but family doesn't think he'd attempt suicide
   - neuro consult called- EEG performed without seizure activity.  Not
   quite clear what the cause of the jerking could be
   - continued to spike temps, but slightly less.  may need to consider LP
   - OSH called, blood cx positive for GPCs
 EEG - At [**2190-12-21**] 01:24 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Vancomycin - [**2190-12-21**] 09:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:06 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2190-12-21**] 10:29 AM
   Dextrose 50% - [**2190-12-21**] 07:07 PM
   Pantoprazole (Protonix) - [**2190-12-21**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 62 (62 - 90) bpm
   BP: 129/63(79) {117/56(70) - 179/103(108)} mmHg
   RR: 11 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (2 - 15)mmHg
   Total In:
                                                                  2,784 mL
                                                                  1,040 mL
   PO:
   TF:
                                                                      1 mL
   IVF:
                                                                  2,709 mL
                                                                  1,039 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    390 mL
   Urine:
                                                                  1,540 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (660 - 916) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: 1mm w minimal response b/l
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, continues
   to have myoclonic jerks of face and right arm w/ stimulation, minimal
   movement w/ sternal rub.
   Labs / Radiology
   180 K/uL
   8.8 g/dL
   174 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.3 mEq/L
   54 mg/dL
   113 mEq/L
   139 mEq/L
   27.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2190-12-20**]  04:53 AM
                             [**2190-12-20**]  06:49 AM
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
   WBC
   12.9
   16.4
   14.0
   10.9
   Hct
   27.2
   29.2
   29.6
   27.8
   Plt
   [**Telephone/Fax (3) 12623**]80
   Cr
   3.8
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   TCO2
   17
   Glucose
   495
   343
   189
   52
   148
   153
   241
   229
   174
   Other labs: PT / PTT / INR:11.7/26.8/1.0, CK / CKMB /
   Troponin-T:2173//, ALT / AST:35/44, Alk Phos / T Bili:73/0.3, Amylase /
   Lipase:702/55, Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %,
   Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:297 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: Osms:309
   CK: 2173
   Imaging: CXR [**12-20**]: Heart size is normal. ET tube, right IJ line appears
   satisfactory. NG tube
   tip lies in the area of the GE junction, this should be advanced
   another [**7-19**]
   cm. No definite pneumonia identified. No CHF.
   Microbiology: Respiratory Culture:
      GRAM STAIN (Final [**2190-12-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   Assessment and Plan
   The patinet is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented markedly elevated
   blood sugars, well above critical values.  No clear precipitant from
   family garnered history.  Patient's profile of metabolic acidosis
   consistent with diabetic ketoacisosis, with moderate urine ketones and
   an anion gap acidosis.  That being said, the degree of hyperglycemis is
   far out of range expected with DKA, and more in line with that seen in
   hyperosmolar hyperglycemic state.  Also consistent with such a
   diagnosis is the serums osms of 360.  The patient is really presenting
   with a mixed picture.  Blood glucose corrected in first 24 hrs with
   insulin gtt, and was transitioned to sc insulin.  Sugars are now
   rebounding, w/ BG up to 350.
   -- initiate basal glucose and start ss/ c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 303**], likely will restart
   gtt
   -- patient is currently adequately resuscitated after 15L of fluid
   -- will follow serial chemistry panels, venous pH, anion gap, and osms,
   but q6hs now that anion gap has closed and osms inproved
   -- will check q1h FS
   -- [**Last Name (un) 7013**] high serum osms are most certainly due to high glucose levels,
   does have a osm gap of 24.  Nothing to suggest toxic ingestion risk
   factors, but will d/w renal if further work up is indicated.
   .
   # Metabolic Acidosis:  Again, as above, likely from DKA.  Potiential
   sources of anion gap acidosis are ketones, lactate, and uremia or
   possible toxic ingestion.  Will continue to correct sugars, rehydrate
   patient, and trend anion gap.
   .
   # Altered Mental Status:  Precipitating symptoms likely from a
   combination of electrolyte abnormaltities, hyperglycemia, as most
   imprornatly hyperosmomar gap with cerebral dehydration.  Currently off
   sedation, and is unresponsive.  Has facial and left arm myoclonos vs.
   sz.  Gave 2mg IV ativan.
   -- c/s neuro
   -- Correct metabolic derangments and continue to follow.
   .
   # Elevated Lipase:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   .
   # Fevers:  No clear infectious source, and all cultures currently
   pending.  [**Month (only) 51**] have aspirated, w/ thick secretions, when was w/ AMS.
   Also, with risk factors for central fevers given current unresponsive
   state and electrolyte derangement.
   - f/u pan-culture
   - cont [**Doctor Last Name **]/zosyn and narrow pending cultures
   .
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - continue to trend
   - avoid nephrotoxic meds
   - hold home lisinopril
   .
   # HL: cont home statin, hold ASA
   .
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, R SCL from OSH will need to be replaced
   # CODE:  Full Code
   # CONTACT: Brother is HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-22**] 07:21 AM 15 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-22 10:46:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: DKA/electrolyte disturbances/altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2190-12-21**] 01:24 PM
 episodes of apnea
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Vancomycin - [**2190-12-21**] 09:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:06 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2190-12-21**] 10:29 AM
   Dextrose 50% - [**2190-12-21**] 07:07 PM
   Pantoprazole (Protonix) - [**2190-12-22**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-22**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 64 (62 - 87) bpm
   BP: 126/58(75) {117/56(70) - 168/103(108)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 11 (2 - 15)mmHg
   Total In:
                                                                  2,784 mL
                                                                  1,437 mL
   PO:
   TF:
                                                                     46 mL
   IVF:
                                                                  2,709 mL
                                                                  1,391 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    610 mL
   Urine:
                                                                  1,540 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                    830 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (660 - 916) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   180 K/uL
   174 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.3 mEq/L
   54 mg/dL
   113 mEq/L
   139 mEq/L
   27.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2190-12-20**]  04:53 AM
                             [**2190-12-20**]  06:49 AM
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
   WBC
   12.9
   16.4
   14.0
   10.9
   Hct
   27.2
   29.2
   29.6
   27.8
   Plt
   [**Telephone/Fax (3) 12623**]80
   Cr
   3.8
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   TCO2
   17
   Glucose
   495
   343
   189
   52
   148
   153
   241
   229
   174
   Other labs: PT / PTT / INR:11.7/26.8/1.0, CK / CKMB /
   Troponin-T:2173//, ALT / AST:35/44, Alk Phos / T Bili:73/0.3, Amylase /
   Lipase:702/55, Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %,
   Eos:0.2 %, Lactic Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:297 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   1. Hyperglycemia/DKA:
   -off insulin drip, on sc insulin
   -gap closed
   -cont to titrate SSRI
   -[**Last Name (un) 303**] following
   -broad spectrum abx for possible infxn as precipitant- continue for
   now, consider dc'ing in 24-48 h if cultures negative
   2. AMS secondary to sedation/DKA
   - holding sedating meds - none x >2days
   - not responding to painful stim
   - CT head unrevealing
   - Neuro consult
   - EEG - no seizure activity
   - ? repeat head CT - d/w neuro
   3. elevated lipase/amylase c/w pancreatitis:
   - enzymes correcting
   4. Acute respiratory failure: intubated for airway
   -Current vent settings adequate
   -episodes apnea. No real periodicity noted.
   5. Renal failure
    -creat down a bit today
   6. Fever
   - pan cx
   - empiric coverage pending cx data guidance
   7. Hypertension
   -labetolol
   Remainder of plan per housetaff note.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-22**] 07:21 AM 15 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2190-12-23 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 52 year old male with a history of DM1
   with a recent insulin pump placement, CRI (Cr 2.3) who presented in
   respiratory distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   24 Hour Events:
   [**2190-12-21**]
   - spoke to PCP, [**Name10 (NameIs) **] history of alcohol/drug abuse or suicidality
   - spoke to family; he was depressed recently because his license was
   suspended, but family doesn't think he'd attempt suicide
   - neuro consult called- EEG performed without seizure activity.  Not
   quite clear what the cause of the jerking could be
   - continued to spike temps, but slightly less.  may need to consider LP
   - OSH called, blood cx positive for GPCs
   [**12-22**]
   -- Patient taken off insulin gtt, BG under good control throughout day,
   never above 190
   - No speciation on OSH BCx
   - Repeat NCHCT w/ atypical b/l temporal lobe hypodensities, radiology
   not clear if chronic, but stable from last CT.  I added on acyclovir
   and we should address need for LP today
   -- renal rec moving forward w/ diuresis.  Gave 40mg IV lasix this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Vancomycin - [**2190-12-22**] 08:00 PM
   Acyclovir - [**2190-12-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-22**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-23**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 63 (62 - 69) bpm
   BP: 123/49(67) {116/49(63) - 153/100(104)} mmHg
   RR: 10 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 11 (0 - 16)mmHg
   Total In:
                                                                  2,529 mL
                                                                    742 mL
   PO:
   TF:
                                                                    578 mL
                                                                    565 mL
   IVF:
                                                                  1,951 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    225 mL
   Urine:
                                                                  1,115 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,414 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Spontaneous): 830 (750 - 990) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   8.1 g/dL
   122 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.8 mEq/L
   56 mg/dL
   116 mEq/L
   142 mEq/L
   25.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
   WBC
   12.9
   16.4
   14.0
   10.9
   7.7
   Hct
   27.2
   29.2
   29.6
   27.8
   25.3
   Plt
   [**Telephone/Fax (3) 12623**]80
   175
   Cr
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   Glucose
   343
   189
   52
   148
   153
   241
   [**Telephone/Fax (3) 12636**]
   122
   Other labs: PT / PTT / INR:10.7/26.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/55,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: [**2190-12-20**] 9:25 am SPUTUM      Source:
   Endotracheal.
                               **FINAL REPORT [**2190-12-22**]**
      GRAM STAIN (Final [**2190-12-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2190-12-22**]):
         SPARSE GROWTH Commensal Respiratory Flora.
   Imaging: HEAD CT:1. Bitemporal regions of low attenuation, not
   significantly changed since [**2190-12-20**]. CT appearance is non-specific and
   further evaluation with MR
   (preferably with contrast), if feasible, is recommended to exclude
   acute
   infectious/inflammatory process such as cerebritis/encephalitis, or
   ischemic
   causes vs. chronic encphalomalacia, perhaps related to old contusions.
   2. Persistent opacification of paranasal sinuses.
   Microbiology: [**2190-12-20**] 9:07 am BLOOD CULTURE      Source: Line-RT SC.
      Blood Culture, Routine (Pending):
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Encephalopathy:  Precipitating symptoms likely from a combination of
   infection given GPCs in bcx and DKA.  Also concern for meningitis given
   head CT. Currently off sedation > 72 hrs and is minimally responsive.
   Has facial and left arm myoclonos.  No seizure activity on EEG.
   -- neuro reccs
   -- likely MRI head today
   -- LP
   -- continue vanc, cefipime, acyclovir
   -- added on vanc level
   -- f/u culture data
   -- management of DKA as below
    #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in
   setting of ongoing lethargy by family and now with GPCs in BCx from
   OSH. Blood glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] reccs
   -- patient is currently adequately resuscitated after >15L of fluid
   -- p.m. chemistry panel though do not anticipate osmolar gap re-opening
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - continue to trend
   - avoid nephrotoxic meds
   - hold home lisinopril
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, R SCL from OSH will need to be replaced
   # CODE:  Full Code
   # CONTACT: Brother is HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-23**] 05:39 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-23 10:54:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - off insulin drip
   -repeat CT head
   -LP performed this morning
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2190-12-20**] 06:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Vancomycin - [**2190-12-22**] 08:00 PM
   Acyclovir - [**2190-12-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-12-23**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-23**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 70 (62 - 70) bpm
   BP: 119/92(55) {116/49(55) - 153/100(104)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 9 (0 - 16)mmHg
   Total In:
                                                                  2,529 mL
                                                                    900 mL
   PO:
   TF:
                                                                    578 mL
                                                                    694 mL
   IVF:
                                                                  1,951 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    955 mL
   Urine:
                                                                  1,115 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,414 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Spontaneous): 830 (750 - 975) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 13
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   175 K/uL
   122 mg/dL
   3.6 mg/dL
   19 mEq/L
   3.8 mEq/L
   56 mg/dL
   116 mEq/L
   142 mEq/L
   25.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2190-12-20**]  09:08 AM
                             [**2190-12-20**]  12:05 PM
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
   WBC
   12.9
   16.4
   14.0
   10.9
   7.7
   Hct
   27.2
   29.2
   29.6
   27.8
   25.3
   Plt
   [**Telephone/Fax (3) 12623**]80
   175
   Cr
   4.0
   3.9
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   Glucose
   343
   189
   52
   148
   153
   241
   [**Telephone/Fax (3) 12636**]
   122
   Other labs: PT / PTT / INR:10.7/26.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   //Hyperglycemia/DKA:
   -off insulin drip, on sc insulin
   -gap closed
   -cont to titrate SSRI
   -[**Last Name (un) 303**] following
   //AMS secondary to sedation/DKA
   - holding sedating meds - none x >3days
   - now responding to noxious stim
   - CT head repeated - ? temporal findings - d/w neuro
   -Acyclovir started last night empirically - d/w neuro
   - Neuro following
   - EEG - no seizure activity
   - ? repeat head CT - d/w neuro
   -? MRI
   3. elevated lipase/amylase c/w pancreatitis:
   - enzymes corrected
   4. Acute respiratory failure: intubated for airway
   -Current vent settings adequate
   -episodes apnea. No periodicity noted.
   5. Renal failure
    -creat trending downward
   6. Fever
   - empiric coverage pending cx data guidance
   7. Hypertension
   -labetolol
   Remainder of plan per housetaff note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-20**] 10:45 AM
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 50 minutes
   Patient is critically ill

2190-12-24 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 52 year old male with a history of DM1
   with a recent insulin pump placement, CRI (Cr 2.3) who presented in
   respiratory distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2190-12-23**] 10:28 AM
 BLOOD CULTURED - At [**2190-12-23**] 06:19 PM
   Two sets, one from TLCL and one from peripheral stick
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Cefipime - [**2190-12-23**] 03:00 PM
   Vancomycin - [**2190-12-23**] 09:37 PM
   Acyclovir - [**2190-12-24**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-12-23**] 08:30 AM
   Pantoprazole (Protonix) - [**2190-12-23**] 09:37 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-24**] 06:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-24**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 60 (60 - 70) bpm
   BP: 118/55(70) {118/50(55) - 163/92(91)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 8 (3 - 11)mmHg
   Total In:
                                                                  2,452 mL
                                                                  1,095 mL
   PO:
   TF:
                                                                  1,340 mL
                                                                    545 mL
   IVF:
                                                                    862 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    363 mL
   Urine:
                                                                  2,580 mL
                                                                    355 mL
   NG:
                                                                     10 mL
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                   -138 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Spontaneous): 833 (777 - 855) mL
   PS : 5 cmH2O
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 10.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   8.0 g/dL
   179 mg/dL
   3.6 mg/dL
   21 mEq/L
   3.9 mEq/L
   54 mg/dL
   115 mEq/L
   143 mEq/L
   23.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
   WBC
   16.4
   14.0
   10.9
   7.7
   5.9
   Hct
   29.2
   29.6
   27.8
   25.3
   23.8
   Plt
   [**Telephone/Fax (3) 12656**]75
   135
   Cr
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   Glucose
   52
   148
   153
   241
   [**Telephone/Fax (3) 12636**]
   122
   148
   179
   Other labs: PT / PTT / INR:10.7/26.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Microbiology: [**2190-12-23**] 9:44 am CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2190-12-23**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Encephalopathy:  Precipitating symptoms likely from a combination of
   infection given GPCs in bcx and DKA.  Also concern for meningitis given
   head CT. Currently off sedation > 72 hrs and is minimally responsive.
   Has facial and left arm myoclonos.  No seizure activity on EEG.
   -- f/u CSF HSV, cultures
   -- continue vanc, cefipime, acyclovir
   -- d/c'd ampicillin per ID
   -- neuro and ID reccs
   -- added on vanc level
   -- f/u culture data
   -- management of DKA as below
    #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in
   setting of ongoing lethargy by family and now with GPCs in BCx from
   OSH. Blood glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] reccs
   -- patient is currently adequately resuscitated after >15L of fluid
   -- p.m. chemistry panel though do not anticipate osmolar gap re-opening
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - continue to trend
   - avoid nephrotoxic meds
   - hold home lisinopril
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: H2 blocker, heparin SQ, bowel regimen
   # ACCESS: PIV, R SCL from OSH will need to be replaced
   # CODE:  Full Code
   # CONTACT: Brother is HCP
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-24 10:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2190-12-23**] 10:28 AM
 BLOOD CULTURED - At [**2190-12-23**] 06:19 PM
   Two sets, one from TLCL and one from peripheral stick
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Cefipime - [**2190-12-23**] 03:00 PM
   Vancomycin - [**2190-12-23**] 09:37 PM
   Acyclovir - [**2190-12-24**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-23**] 09:37 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-24**] 06:24 AM
   Furosemide (Lasix) - [**2190-12-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-24**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 59 (58 - 70) bpm
   BP: 113/54(68) {109/50(55) - 163/92(91)} mmHg
   RR: 12 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 10 (3 - 11)mmHg
   Total In:
                                                                  2,452 mL
                                                                  2,226 mL
   PO:
   TF:
                                                                  1,340 mL
                                                                  1,560 mL
   IVF:
                                                                    862 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    743 mL
   Urine:
                                                                  2,580 mL
                                                                    735 mL
   NG:
                                                                     10 mL
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                   -138 mL
                                                                  1,483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Spontaneous): 833 (777 - 855) mL
   PS : 5 cmH2O
   RR (Set): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   135 K/uL
   179 mg/dL
   3.6 mg/dL
   21 mEq/L
   3.9 mEq/L
   54 mg/dL
   115 mEq/L
   143 mEq/L
   23.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2190-12-20**]  04:14 PM
                             [**2190-12-20**]  09:27 PM
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
   WBC
   16.4
   14.0
   10.9
   7.7
   5.9
   Hct
   29.2
   29.6
   27.8
   25.3
   23.8
   Plt
   [**Telephone/Fax (3) 12656**]75
   135
   Cr
   3.8
   3.9
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   Glucose
   52
   148
   153
   241
   [**Telephone/Fax (3) 12636**]
   122
   148
   179
   Other labs: PT / PTT / INR:10.7/26.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   //AMS secondary to sedation/DKA
   - minimizing sedating meds - propofol started - weaning for neuro
   checks
   - responding to noxious stim
   - CT head repeated - ? temporal findings - d/w neuro
   -Acyclovir started last night empirically - pending PCR results
   - EEG - no seizure activity
   - ? post DKA vs infectious - neuro & ID following
   //Hyperglycemia/DKA:
   -off insulin drip, on sc insulin
   -gap closed
   -cont to titrate SSRI
   -[**Last Name (un) 303**] following
   //elevated lipase/amylase c/w pancreatitis:
   - enzymes corrected
   //Acute respiratory failure: intubated for airway
   -Current vent settings adequate
   -episodes apnea. No periodicity noted.
   //Renal failure
    -creat trending downward
   //Fever
   - empiric coverage pending cx data guidance
   //Hypertension
   -labetolol
   Remainder of plan per housetaff note.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-24**] 09:47 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2190-12-25 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cultures still remained NGTD
   - no change in abx currently per ID
   - per neuro: still no MRI
   - responding to noxious stimuli, still does not follow commands
   - gave PCP an update
   - continued diuresis per renal
   - FS ranging between 67 and 179
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Cefipime - [**2190-12-24**] 04:00 PM
   Vancomycin - [**2190-12-24**] 08:25 PM
   Acyclovir - [**2190-12-25**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2190-12-24**] 08:00 PM
   Pantoprazole (Protonix) - [**2190-12-24**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-25**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 64 (58 - 69) bpm
   BP: 135/56(74) {113/51(65) - 153/64(87)} mmHg
   RR: 12 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 9 (1 - 14)mmHg
   Total In:
                                                                  3,487 mL
                                                                  1,097 mL
   PO:
   TF:
                                                                  1,814 mL
                                                                    516 mL
   IVF:
                                                                  1,293 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  2,828 mL
                                                                    835 mL
   Urine:
                                                                  2,820 mL
                                                                    835 mL
   NG:
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   7.9 g/dL
   164 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   57 mg/dL
   113 mEq/L
   143 mEq/L
   24.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
   WBC
   14.0
   10.9
   7.7
   5.9
   7.0
   Hct
   29.6
   27.8
   25.3
   23.8
   23.8
   24.4
   Plt
   [**Telephone/Fax (3) 12666**]35
   191
   Cr
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   Glucose
   153
   241
   229
   174
   103
   122
   148
   179
   67
   164
   Other labs: PT / PTT / INR:10.3/28.6/0.8, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Imaging: comparison with the study of [**12-23**], the monitoring and support
   devices remain in place. Continued enlargement of the cardiac
   silhouette with
   haziness involving both hemithoraces consistent with layering
   effusions. The
   left hemidiaphragm is obscured, consistent with atelectatic change in
   the
   retrocardiac region.
   Microbiology: All cultures NGTD.  HSV PCR Pending
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Encephalopathy:  Precipitating symptoms likely from a combination of
   infection given GPCs in bcx and DKA.  Also concern for meningitis given
   head CT. Currently off sedation > 72 hrs and is minimally responsive.
   Has facial and left arm myoclonos.  No seizure activity on EEG.
   -- f/u CSF HSV, cultures
   -- continue vanc, cefipime, acyclovir
   -- d/c'd ampicillin per ID
   -- neuro and ID reccs
   -- clarify need for head MRI
   -- added on vanc level
   -- f/u culture data
   -- management of DKA as below
    #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in
   setting of ongoing lethargy by family and now with GPCs in BCx from
   OSH. Blood glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] reccs
   -- patient is currently adequately resuscitated after >15L of fluid
   -- p.m. chemistry panel though do not anticipate osmolar gap re-opening
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix 40 iv bid per renal
   - avoid nephrotoxic meds
   - hold home lisinopril
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   # CONTACT: Brother is HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-25 11:41:00 Physician Attending Progress Note
Chief Complaint: coma following DKA
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 57 yo man with type I DM admitted [**2190-12-21**] with unresponsiveness
   and DKA with FSBG 1200.  With persistent unresponsiveness of unclear
   etiology, thought due to prolonged acidemic state or resolving
   metabolic encephalopathy.  LP suggestive of partially treated
   meningitis.
   24 Hour Events:
   -continues on MVV ventilation
   -when propofol held for neurologic checks, patient remains responsive
   only to painful stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-12-22**] 06:00 PM
   Cefipime - [**2190-12-24**] 04:00 PM
   Vancomycin - [**2190-12-24**] 08:25 PM
   Acyclovir - [**2190-12-25**] 02:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-24**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-25**] 06:00 AM
   Furosemide (Lasix) - [**2190-12-25**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2190-12-25**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 64 (58 - 69) bpm
   BP: 129/55(79) {109/50(64) - 153/64(87)} mmHg
   RR: 17 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 11 (1 - 13)mmHg
   Total In:
                                                                  3,487 mL
                                                                  1,535 mL
   PO:
   TF:
                                                                  1,814 mL
                                                                    861 mL
   IVF:
                                                                  1,293 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,828 mL
                                                                  1,505 mL
   Urine:
                                                                  2,820 mL
                                                                  1,505 mL
   NG:
                                                                      8 mL
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, +gag +doll's.
   Labs / Radiology
   7.9 g/dL
   191 K/uL
   164 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   57 mg/dL
   113 mEq/L
   143 mEq/L
   24.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2190-12-21**]  01:17 AM
                             [**2190-12-21**]  05:39 AM
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
   WBC
   14.0
   10.9
   7.7
   5.9
   7.0
   Hct
   29.6
   27.8
   25.3
   23.8
   23.8
   24.4
   Plt
   [**Telephone/Fax (3) 12666**]35
   191
   Cr
   4.0
   3.8
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   Glucose
   153
   241
   229
   174
   103
   122
   148
   179
   67
   164
   Other labs: PT / PTT / INR:10.3/28.6/0.8, CK / CKMB / Troponin-T:690//,
   ALT / AST:31/35, Alk Phos / T Bili:68/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:259 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   Persistently altered mental status due to resolving delirium, partially
   treated meningitis, or possible permanent neurologic damage from
   prolonged acidosis. This is a diagnosis of exclusion and pt will
   continue to receive empirical treatment for possible bacterial and
   viral meningoencephalitis.
   Obtain brain MRI.
   -followup CSF for HSV and culture results
   -continues on empiric vancomycin, cefepime, and acyclovir
   -CT head with areas of low attenuation in bilateral temporal horns
   which could be consistent with meningitis or encephalitis
   -continue propofol for sedation (biting on ETT) to facilitate easy
   neuro checks
   -neurologic prognosis guarded
   Ventilator dependence due to altered mental status
   -unable to extubate until mental status improved
   DKA no resolved
   -onlantus 22U and RISS, [**Last Name (un) 303**] following
   Acute on chronic renal failure
   - component of ATN explains persistent elevation of Cr above baseline
   -renally dose medications
   -will start lasix drip given total body overload, will need to make
   200cc/hr of urine to be net negative
   Pancreatitis now resolved
   # CONTACT: Brother is HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-25**] 06:50 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes
   Pt is critically ill.

2190-12-26 08:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 52 year old male with a history of DM1
   with a recent insulin pump placement, CRI (Cr 2.3) who presented in
   respiratory distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2190-12-25**] 09:30 PM
   [**12-24**]
   - cultures still remained NGTD
   - no change in abx currently per ID
   - per neuro: still no MRI
   - responding to noxious stimuli, still does not follow commands
   - gave PCP an update
   - continued diuresis per renal
   ---------------------------------------------------------
   [**12-25**]
   - Neuro attending feel that prognosis for neurologic recovery bleek.
   Opinion communicated to family.  They are hoping to sit down with neuro
   today.
   - Had MRI overnight
   - Blood glucose under relatively good control througout day
   - Lasix gtt starged, negative over 2L
   - IV Nurse unable to place PICC; ordered for IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-24**] 08:25 PM
   Acyclovir - [**2190-12-25**] 02:00 PM
   Cefipime - [**2190-12-25**] 04:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-25**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-26**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 63 (61 - 69) bpm
   BP: 121/54(70) {121/51(68) - 157/67(87)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 7 (5 - 17)mmHg
   Total In:
                                                                  2,523 mL
                                                                  1,180 mL
   PO:
   TF:
                                                                  1,150 mL
                                                                    616 mL
   IVF:
                                                                    923 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  4,605 mL
                                                                  1,725 mL
   Urine:
                                                                  4,605 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,082 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   SpO2: 100%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: no cervical LAD
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: clear anteriorly, no wheezes
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: PERRL.  No withdrawal to pain
   Skin:  no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   7.4 g/dL
   123 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   56 mg/dL
   113 mEq/L
   146 mEq/L
   22.1 %
   4.3 K/uL
        [image002.jpg]
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
   WBC
   10.9
   7.7
   5.9
   7.0
   4.3
   Hct
   27.8
   25.3
   23.8
   23.8
   24.4
   22.1
   Plt
   180
   175
   135
   191
   179
   Cr
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   Glucose
   [**Telephone/Fax (3) 12681**]22
   148
   179
   67
   164
   76
   123
   Other labs: PT / PTT / INR:10.7/28.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Encephalopathy:  Precipitating symptoms likely from a combination of
   infection given GPCs in bcx and DKA.  Also concern for meningitis given
   head CT. Currently off sedation > 72 hrs and is minimally responsive
   with poor prognosis per neuro.
   -- f/u CSF cultures
   -- f/u head MRI
   -- continue vanc, cefipime
   -- can d/c acyclovir
   -- neuro and ID reccs
   -- added on vanc level
    #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in
   setting of ongoing lethargy by family and now with GPCs in BCx from
   OSH. Blood glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] reccs
   -- patient is currently adequately resuscitated after >15L of fluid
   -- p.m. chemistry panel though do not anticipate osmolar gap re-opening
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix gtt
   - avoid nephrotoxic meds
   - hold home lisinopril
   # Hypernatremia:  will add Chlorothiazide but will likely need to
   increase free water boluses
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.  Cont labatolol and
   uptitrate to 300mg for goal < 140.
   # CONTACT: Brother is HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-25**] 06:50 AM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-26 08:15:00 Physician Attending Progress Note
Chief Complaint: coma following DKA
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 52 yo man with DM I and recent placement of insulin pump admitted
   [**2190-12-20**] with diabetic ketoacidosis with FSBG 1200.  Anion gap now
   closed but with persistently altered mental status.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2190-12-25**] 09:30 PM
   - Neurology attending discussed with patient
s family that  his
   prognosis for significant neurologic improvement was poor
   -MRI obtained overnight, read pending
   - Blood glucose under relatively good control througout day
   - Lasix gtt starged, negative over 2L
   - IV Nurse unable to place PICC; ordered for IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-24**] 08:25 PM
   Acyclovir - [**2190-12-25**] 02:00 PM
   Cefipime - [**2190-12-25**] 04:00 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-25**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-26**] 06:00 AM
   Other medications:
   Protonix
   Labetalol 300mg TID
   RISS
   Cefepime 2gm IV q24
   Vancomycin 1gm IV q24
   Flowsheet Data as of  [**2190-12-26**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 63 (61 - 69) bpm
   BP: 121/54(70) {121/51(68) - 157/67(87)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 7 (5 - 17)mmHg
   Total In:
                                                                  2,523 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                  1,150 mL
                                                                    608 mL
   IVF:
                                                                    923 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  4,605 mL
                                                                  1,725 mL
   Urine:
                                                                  4,605 mL
                                                                  1,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,082 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   SpO2: 100%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: clear anteriorly
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: PERRL.  On propofol no response to sternal rub, does not
   withdraw to pain
   Labs / Radiology
   7.4 g/dL
   179 K/uL
   123 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   56 mg/dL
   113 mEq/L
   146 mEq/L
   22.1 %
   4.3 K/uL
        [image002.jpg] Cr 3.4 yesterday
   Hct 24 yesterday
                             [**2190-12-21**]  01:31 PM
                             [**2190-12-22**]  05:56 AM
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
   WBC
   10.9
   7.7
   5.9
   7.0
   4.3
   Hct
   27.8
   25.3
   23.8
   23.8
   24.4
   22.1
   Plt
   180
   175
   135
   191
   179
   Cr
   4.0
   3.6
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   Glucose
   [**Telephone/Fax (3) 12681**]22
   148
   179
   67
   164
   76
   123
   Other labs: PT / PTT / INR:10.7/28.2/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Cultures: blood cultures from OSH: Staph saprophyticus
   CSF HSV: negative
   Assessment and Plan
   Persistently altered mental status due to resolving delirium, partially
   treated meningitis, or possible permanent neurologic damage from
   prolonged acidosis. This is a diagnosis of exclusion and pt will
   continue to receive empirical treatment for possible bacterial and
   viral meningoencephalitis.
   Altered mental status
   -continues on propofol due to episodic chewing on ETT.  Will stop
   propofol to perform a neurologic exam off sedation today
   -followup results of brain MRI given areas of low attenuation in
   bilateral temporal horns
   -CSF HSV negative
   -continues on vancomycin and cefepime for 2 week course.  Vancomycin
   trough elevated, will recheck trough and dose
   Ventilator dependence due to altered mental status
   -unable to extubate until mental status improved.  If predicted long
   term ventilator dependence will need to consider placement of
   tracheostomy
   -continues on PS 5/5/0.4
   DKA now resolved
   -onlantus 22U and RISS, [**Last Name (un) 303**] following
   Acute on chronic renal failure
   - component of ATN explains persistent elevation of Cr above baseline
   but trending down
   -renally dose medications
   -doing well on lasix drip but serum Na trending up.  Will add
   metolazone, followup PM lytes
   Anemia likely iatrogenic
   -guiac negative
   -transfuse for Hct<21
   Pancreatitis now resolved
   # CONTACT: Brother is HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-25**] 06:50 AM 75 mL/hour
   Glycemic Control:  lantus and RISS
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM, await placement of PICC in IR
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code.  Plan for family meeting today at 11AM with
   neurology attending present.
   Disposition : ICU.
   Total time spent: 35 minutes.
   Pt is critically ill.

2190-12-27 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - MRI prelim with anoxic brain injury. review of [**Hospital **] hosp records
   show periods of SBPs in 50s-70s.  dr. [**Last Name (STitle) **] and micu team discussed
   with family.
   - family agrees to PEG and trach
   - went up from 100 -> 250 q6 on free water boluses for hypernatremia
   (renal wanted 400 q6)
   - took off MMV and did not have recurrent apneic episodes
   - spiked to ~100.8 -> pan cx
 BLOOD CULTURED - At [**2190-12-26**] 09:00 PM
 URINE CULTURE - At [**2190-12-26**] 09:00 PM
 SPUTUM CULTURE - At [**2190-12-27**] 12:16 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2190-12-25**] 02:00 PM
   Cefipime - [**2190-12-26**] 06:00 PM
   Vancomycin - [**2190-12-26**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-27**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-27**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 63 (62 - 75) bpm
   BP: 121/51(67) {121/47(63) - 147/61(79)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 8 (1 - 17)mmHg
   Total In:
                                                                  3,407 mL
                                                                  1,376 mL
   PO:
   TF:
                                                                  1,800 mL
                                                                    554 mL
   IVF:
                                                                  1,127 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  5,835 mL
                                                                  1,535 mL
   Urine:
                                                                  5,835 mL
                                                                  1,535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,428 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   7.4 g/dL
   257 mg/dL
   3.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   63 mg/dL
   108 mEq/L
   144 mEq/L
   22.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
   WBC
   7.7
   5.9
   7.0
   4.3
   5.8
   Hct
   25.3
   23.8
   23.8
   24.4
   22.1
   22.2
   22.6
   Plt
   175
   135
   191
   179
   231
   Cr
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   Glucose
   103
   122
   148
   179
   67
   164
   76
   123
   170
   257
   Other labs: PT / PTT / INR:10.5/28.8/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   [**2190-12-25**] MRI HEAD:
   IMPRESSION:
   1. Multifocal subacute infarction, configuration and distribution favor
   hypoxic ischemic insult such as sustained during acute hypotension,
   cardiac
   arrest. Given gyriform configuration, the embolic etiology is felt less
   likely, however, remains a differential consideration.
   2. No evidence of mass effect, edema, herniation or hemorrhage.
   3. Pansinusitis.
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Encephalopathy:  Precipitating symptoms likely from a combination of
   infection given GPCs in bcx and DKA.  Also concern for meningitis given
   head CT. Currently off sedation > 72 hrs and is minimally responsive
   with poor prognosis per neuro.  MRI concerning for anoxic brain injury
   (hypotensive at OSH initially)
   -- CSF- no growth
   -- MRI with likely anoxic brain injury; possibly septic emboli though
   doesn
t have any positive blood cultures
   -- continue vanc, cefepime
   -- neuro and ID recs
   -- family would like PEG/trach- but will have a family meeting
   discussing all options.
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- will check c.diff
   -- cont vanco/cefepime for now which would cover sinusitis as well
    #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in
   setting of ongoing lethargy by family and now with GPCs in BCx from
   OSH. Blood glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.  Resolved; stable
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix gtt; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - hold home lisinopril
   # Hypernatremia:
   - cont free H2O flush at 250 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
   # CONTACT: Brother is HCP
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-12-25**] 06:50 AM 75 mL/hour
   Glycemic Control:  SC glargine and ISS
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI [**Hospital1 7**]
   VAP:  VAP bundle
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2190-12-27 07:55:00 Physician Attending Progress Note
Chief Complaint: DKA, altered MS
   HPI: Please see H&P for details.  Admitted obtunded in DKA and
   w/hyperosmolar state.
   24 Hour Events:
 Pan cultured for fever to 100.6
MRI consistent w/anoxic brain injury
Family meeting with planned trach and PEG
Free water flushes increased
Apneic episodes, briefly on MMV, now back to PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-26**] 06:00 PM
   Vancomycin - [**2190-12-26**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-27**] 06:04 AM
   Other medications:
   Chlorhexidine, labetatol, insulin scale + fixed dose
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-27**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 63 (62 - 75) bpm
   BP: 121/51(67) {121/47(63) - 147/61(79)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 8 (1 - 17)mmHg
   FS
 147-421
   Total In:
                                                                  3,407 mL
                                                                  1,402 mL
   PO:
                                TF:
                                                                  1,800 mL
                                                                    566 mL
   IVF:
                                                                  1,127 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  5,835 mL
                                                                  1,535 mL
   Urine:
                                                                  5,835 mL
                                                                  1,535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,428 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: RRR, S1, S2, no RMG
   Peripheral Vascular: Warm, trace bilateral LE edema, palpable DPs bilat
   Respiratory / Chest: CTAB anteriorally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Sedated, not responding to verbal stimuli or pain
   Labs / Radiology
   7.4 g/dL
   231 K/uL
   257 mg/dL
   3.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   63 mg/dL
   108 mEq/L
   144 mEq/L
   22.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2190-12-22**]  05:59 PM
                             [**2190-12-23**]  04:08 AM
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
   WBC
   7.7
   5.9
   7.0
   4.3
   5.8
   Hct
   25.3
   23.8
   23.8
   24.4
   22.1
   22.2
   22.6
   Plt
   175
   135
   191
   179
   231
   Cr
   3.4
   3.6
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   Glucose
   103
   122
   148
   179
   67
   164
   76
   123
   170
   257
   Other labs: PT / PTT / INR:10.5/28.8/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.9 mg/dL
   Sputum [**12-27**]
 GPCs on gram stain
   Blood, Urine, CSF all NGTD
   MRI
 Multifocal diffuse infarction, favor anoxic/hypotensive injury
   versus less likely embolic etiology
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI.  Poor neuro exam.  Cannot exclude
   superimposed CNS infectious process (although cultures unrevealing) or
   hyperosmolar injury.  Had myoclonic movements on admission, EEG
   negative.
   - Appreciate neuro input, feel minimal chance of recovery
   - Tentative plan for trach/PEG, but will rediscuss with family
 Respiratory Insufficiency
 Intubated largely for airway protection,
   doing well on [**4-13**], good cough and gag, so could consider trying to
   extubate without going to trach.  RSBI 40.
   - Will discuss GOC with family, if they want PEG, consider extubating
   after PEG.
 Fever
 Has pan-sinusitis by CT, also consider VAP, C diff, or
   central process.  On broad spectrum abx (vanco, cefepime) for 7 days,
   will continue for now.
Slow decrease in Hct
 Unclear etiology, stool heme negative two days
   ago.  Likely secondary to phlebotomy but follow.
Hypernatremia
 Improving with free water boluses
   - Continue free water bolus
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 Likely ATN given
   muddy brown casts, baseline Cr 2.0-2.3, avoiding nephrotoxins,
   diuresing well.
   - I/O goal -1-2L per 24hrs
   - Trend lytes, Cr
 HYPERGLYCEMIA
 On lantus, q6h regular, sliding scale, follow.  One
   high sugar yesterday, adjust if needed.
 HYPERTENSION/HYPERLIPIDEMIA
 Continue statin and labetalol.  Good BP
   control
 PANCREATITIS, ACUTE
 Resolved.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Follow FS,
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: Full code, discuss with family
   Disposition : ICU for now
   Total time spent: 30 min

2190-12-28 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 52 year old male with a history of DM1
   with a recent insulin pump placement, CRI (Cr 2.3) who presented in
   respiratory distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   24 Hour Events:
   - family meeting; wanted to discuss NEOB.  Nothing they can do now
   since patient is not brain dead.  family does not want PEG/Trach but
   would like to extubate and continue insulin for the time being while
   assessing neurologic status
   - had apneic episodes early in AM, switched back to MMV mode
   - propofol off all night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2190-12-25**] 02:00 PM
   Vancomycin - [**2190-12-26**] 08:00 PM
   Cefipime - [**2190-12-27**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-12-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-28**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 70 (62 - 71) bpm
   BP: 131/52(77) {112/46(62) - 157/66(89)} mmHg
   RR: 9 (7 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 7 (7 - 16)mmHg
   Total In:
                                                                  4,424 mL
                                                                  1,627 mL
   PO:
   TF:
                                                                  1,800 mL
                                                                    566 mL
   IVF:
                                                                  1,414 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  4,130 mL
                                                                  1,640 mL
   Urine:
                                                                  3,680 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (420 - 610) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   244 K/uL
   7.6 g/dL
   311 mg/dL
   3.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   67 mg/dL
   103 mEq/L
   140 mEq/L
   23.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
   WBC
   5.9
   7.0
   4.3
   5.8
   7.7
   Hct
   23.8
   23.8
   24.4
   22.1
   22.2
   22.6
   22.0
   23.2
   Plt
   135
   191
   179
   231
   244
   Cr
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   Glucose
   148
   179
   67
   164
   76
   123
   170
   257
   107
   311
   Other labs: PT / PTT / INR:10.8/28.3/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.4 mg/Dl
   CXR [**12-27**]:
   Small right and moderate left pleural effusions have both decreased and
   the
   right lower lobe is better aerated, though the left is still severely
   atelectatic. Heart size is top normal. Upper lungs clear. ET tube and
   right
   jugular line in standard placements. No pneumothorax.
   CSF culture neg.
[**2190-12-27**] 1:20 am SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2190-12-27**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT. Currently off sedation and is
   minimally responsive with poor prognosis per neuro.  MRI concerning for
   anoxic brain injury (hypotensive at OSH initially)
   -- CSF- no growth
   -- MRI with likely anoxic brain injury; possibly septic emboli though
   doesn
t have any positive blood cultures
   -- TTE to r/o vegs
   -- MVI and thiamine started empirically
   -- neuro and ID recs
   -- family interested in NEOB, extubation with evaluation for mental
   status improvement and possible cmo
   -- keep propofol off
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- will check c.diff
   -- cont vanco/cefepime ([**2190-12-23**]) for now which would cover sinusitis as
   well
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.  Resolved; stable
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix gtt; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - hold home lisinopril
   # Hypernatremia:  resolved.
   - decrease free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
   # CONTACT: Brother is HCP
   ICU [**Name (NI) 81**]
   Nutrition: TFs (will attempt to concentrate)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-28 10:24:00 Physician Attending Progress Note
Chief Complaint: DKA and altered mental status requiring intubation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52  yo man with recent insuling pump placement for Type 1 DM admitted
   with DKA and persistently altered mental status.
   24 Hour Events:
   -family meeting yesterday.  The patient's family indicated that he
   would not have wanted to live with minimal cognitive function.  Given
   extensive nature of abnormalities on MRI as well as lack of improvement
   with no recovery of higher cerebral function neurology felt patient has
   an extremely poor prognosis.
   -MVI and thiamine supplementation initiated, thiamine level pending
   -TTE pending this morning
   -propofol since last night
   -Tm 100.5, cultures resent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2190-12-25**] 02:00 PM
   Vancomycin - [**2190-12-26**] 08:00 PM
   Cefipime - [**2190-12-27**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-28**] 06:00 AM
   Other medications:
   Chlorhexadine
   Pantoprazole
   Labatelol 300mg TID
   RISS
   Lantus
   Cefepime 2gm IV q24
   Vancomycin 1gm IV q24
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-28**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 64 (62 - 71) bpm
   BP: 129/57(74) {116/48(64) - 157/66(89)} mmHg
   RR: 11 (7 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 7 (7 - 16)mmHg
   Total In:
                                                                  4,424 mL
                                                                  1,649 mL
   PO:
   TF:
                                                                  1,800 mL
                                                                    566 mL
   IVF:
                                                                  1,414 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  4,130 mL
                                                                  2,040 mL
   Urine:
                                                                  3,680 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (450 - 610) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Eyes open with spontaneous blinking.  No blink to threat.
   +cough +gag.  No withdrawal to pain.  1-2 beats clonus
   Lungs clear
   Hear RRR, no m/r/g
   +BS, soft
   +anasarca
   Labs / Radiology
   7.6 g/dL
   244 K/uL
   311 mg/dL
   3.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   67 mg/dL
   103 mEq/L
   140 mEq/L
   23.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2190-12-23**]  05:44 PM
                             [**2190-12-24**]  04:06 AM
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
   WBC
   5.9
   7.0
   4.3
   5.8
   7.7
   Hct
   23.8
   23.8
   24.4
   22.1
   22.2
   22.6
   22.0
   23.2
   Plt
   135
   191
   179
   231
   244
   Cr
   3.8
   3.6
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   Glucose
   148
   179
   67
   164
   76
   123
   170
   257
   107
   311
   Other labs: PT / PTT / INR:10.8/28.3/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:22/22, Alk Phos / T Bili:66/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:1.8 g/dL, LDH:236 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Blood cultures: all NGTD
   Sputum [**12-27**]: 1+ GPC in pairs on gram stain
   Urine culture to be sent
   CSF cultures: negative
   Vancomycin trough 24
   Assessment and Plan
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI vs embolic phenomenon (although
   neurology feels latter is unlikely as a vascular territories
   involved).
   -will talk to neurology and ID to determine: if MRI changes are related
   to embolic phenomenon, would more time on IV antibiotics lead to an
   improvement in mental status?
   -if neurology does not feel more time would give us a sense of improved
   prognosis will speak to family about extubation and placement of
   DNR/DNI status.  Patient will likely do well immediately post
   extubation as able to take in tidal volumes>1L on PS 5/5
   -empiric vancomycin and cefepime for 14 day course for presumed
   meningitis
   -TTE to rule out vegetation
   -thiamine and MVI supplementation
low grade fevers of unclear etiology
   -await repeat cultures
   -no eosinophilia to suggest drug reaction
   -will remove TLC after PICC placed today
ventilator dependence due to altered mental status
   -await defined neurologic status prior to decision to extubate
acute renal failure
   -will decrease free water boluses
   -monitor urine output
   -increase lasix drip for goal out 1-2L daily
   ICU Care
   Nutrition: TF at goal
   Glycemic Control:  lantus and RISS
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, off propofol but still remains unresponsive
   38.1   P 64  120/57  RR 16 Sat  100%
   Intubated, unresponsive,
   CTA bilaterally
   S1 S2 reg
   Soft NT ND
   Ext: +[**12-11**] lower extremity edema
   Neuro: eyes open but unresponsive
 currently off sedation
   Assessment:
   1-       Unresponsiveness: I thoroughly reviewed the case, reviewed the
   MRI findings with the neuroradiologist, and discussed with the
   neurology attending.  The MRI findings are most consistent with an
   anoxic injury though the patient never had full cardiac arrest.  There
   was no involvement of thalamus or other basal ganglia structures and
   thus not suggestive of WE or CO toxicity.  Also, though embolic on the
   differential, it is deemed less likely radiographically  Despite this,
   we will obtain an ECHO to see if any vegetations.  There were also
   findings on the MRI consistent with chronic microvascular disease.
   Thus, putting this altogether, I suspect that the patient had
   underlying predisposition through microvascular disease in the brain
   and the severe insult of acidosis/hypotension/hyperosmolar coma
   combined to create an anoxic injury pattern.  The prognosis is likely
   not good and we will discuss further with the family.
   2-       Fever
 ? line (will remove for peripherals)
   3-       Respiratory Failure
   Plan:
   1-       ECHO
   2-       Remove central line after peripherals placed
   3-       Keep on mechanical ventilation for now pending family meeting
   4-       Family meeting
   Time Spent: 60 minutes (Critical Care Time: 60 minutes)
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2190-12-29**] 10:17 AM ------

2190-12-29 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --UOP not picking up with lasix 14mg/hr; started on diuril 250mg daily
   with good effect
   -- Cr improving with diuresis
   -- sat down with family at 9pm last night.  They are looking to
   extubate after son's birthday (thursday.) Would be open to focusing on
   comfort measures at that point.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-28**] 04:00 PM
   Vancomycin - [**2190-12-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-29**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 70 (64 - 74) bpm
   BP: 134/54(73) {122/51(70) - 152/71(84)} mmHg
   RR: 8 (7 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  2,828 mL
                                                                    643 mL
   PO:
   TF:
                                                                  1,174 mL
                                                                    306 mL
   IVF:
                                                                  1,024 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,580 mL
   Urine:
                                                                  5,120 mL
                                                                  1,580 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -2,692 mL
                                                                   -936 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 567 (402 - 574) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   271 K/uL
   7.7 g/dL
   267 mg/dL
   2.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   70 mg/dL
   101 mEq/L
   141 mEq/L
   23.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
   WBC
   7.0
   4.3
   5.8
   7.7
   11.5
   Hct
   23.8
   24.4
   22.1
   22.2
   22.6
   22.0
   23.2
   23.4
   Plt
   191
   179
   231
   244
   271
   Cr
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   Glucose
   67
   164
   76
   123
   170
   257
   107
   311
   159
   267
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.2 mg/Dl
   Echo:
   The left atrium is normal in size. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   60-70%). Right ventricular chamber size and free wall motion are
   normal. The aortic root is mildly dilated at the sinus level. The
   aortic valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. No masses or vegetations are
   seen on the aortic valve. The mitral valve appears structurally normal
   with trivial mitral regurgitation. There is no mitral valve prolapse.
   No mass or vegetation is seen on the mitral valve. The pulmonary artery
   systolic pressure could not be determined. There is no pericardial
   effusion.
   IMPRESSION: no obvious vegetations seen
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT. Currently off sedation and is
   minimally responsive with poor prognosis per neuro.  MRI concerning for
   anoxic brain injury (hypotensive at OSH initially)
   -- CSF- no growth
   -- MRI with likely anoxic brain injury; possibly septic emboli though
   doesn
t have any positive blood cultures
   -- TTE to r/o vegs
   -- MVI and thiamine started empirically
   -- neuro and ID recs
   -- family interested in NEOB, extubation with evaluation for mental
   status improvement and possible cmo
   -- keep propofol off
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- will check c.diff
   -- cont vanco/cefepime ([**2190-12-23**]) for now which would cover sinusitis as
   well
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.  Resolved; stable
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix gtt; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Hypernatremia:  resolved.
   - decrease free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
   # CONTACT: Brother is HCP
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-12-29**] 02:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2190-12-29 08:12:00 Physician Attending Progress Note
Chief Complaint: DKA and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with DM I and recent placement of insulin pump, admitted with
   DKA and FSBG 1200.  Now with persistent unresponsiveness with MRI brain
   consistent with anoxic brain injury vs injury due to severe acidosis
   and ketosis.
   24 Hour Events:
   -family meeting last night at 9pm.  Patient
s health care proxy and
   family clear that they wanted him extubated [**Name (NI) 511**] (son
s birthday
   Thursday)
   -remained afebrile over 24 hrs
   -did not get PICC line
   -TTE without vegetations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-28**] 04:00 PM
   Vancomycin - [**2190-12-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-29**] 06:00 AM
   Other medications:
   Chlorhexadine
   Labetalol 300mg TID
   RISS
   Lantus
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-29**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 74 (64 - 74) bpm
   BP: 151/56(79) {122/51(70) - 152/71(84)} mmHg
   RR: 9 (7 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 3 (-4 - 12)mmHg
   Total In:
                                                                  2,828 mL
                                                                    671 mL
   PO:
   TF:
                                                                  1,174 mL
                                                                    327 mL
   IVF:
                                                                  1,024 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,580 mL
   Urine:
                                                                  5,120 mL
                                                                  1,580 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -2,692 mL
                                                                   -909 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 567 (402 - 574) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Eyes open but no blinking to threat.  No grimace or
   withdrawal to pain.
   Labs / Radiology
   7.7 g/dL
   271 K/uL
   267 mg/dL
   2.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   70 mg/dL
   101 mEq/L
   141 mEq/L
   23.4 %
   11.5 K/uL
        [image002.jpg]
                             [**2190-12-24**]  02:27 PM
                             [**2190-12-25**]  04:16 AM
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
   WBC
   7.0
   4.3
   5.8
   7.7
   11.5
   Hct
   23.8
   24.4
   22.1
   22.2
   22.6
   22.0
   23.2
   23.4
   Plt
   191
   179
   231
   244
   271
   Cr
   3.4
   3.4
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   Glucose
   67
   164
   76
   123
   170
   257
   107
   311
   159
   267
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.2 mg/dL
   All cultures NGTD
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI vs embolic phenomenon (although
   neurology feels latter is unlikely as all vascular territories
   involved).
   -no improvement in his mental status, propofol off for 48 hours now
   -family appears to understand there is a minor chance of recovery of
   cognitive function given that we have little clinical experience with
   brain injury due to severe acidosis.  However, they do not want to risk
   a persistent vegetative state
   -plan for extubation on [**Year (4 digits) 511**]
   -in the interim continue meningitis coverage
   -hold sedatives
low grade fevers of unclear etiology
   -await repeat cultures
   -no eosinophilia to suggest drug reaction
   -given family
s decision to likely withdraw care on [**Year (4 digits) 511**] will hold on
   PICC placement now
ventilator dependence due to altered mental status
   -extubation [**Year (4 digits) 511**] as above
acute renal failure
   -increase lasix drip for goal out 1-2L daily
   -continue lantus and RISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-12-29**] 02:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP: chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan with the following modifications/emphasis:
   Overnight, no new problems and patient remains unresponsive.  Family
   came in late in the evening and discussed not wanting to consider
   extubation until Thursday
   T 37.2  P 74  BP 150/71   RR 10  Sat: 100%
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Neuro: Unresponsive, eyes opening but no response
   Labs: See above
   Assessment:
   1) Respiratory Failure
   2) Anoxic Brain Injury (see assessment from yesterday
s note for
   details)
   3) DM 1, uncontrolled
   Plan:
   1) Continue pressure support ventilation
   2) Monitor neurological status
   3) Family meeting when possible
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2190-12-29**] 15:35 ------

2190-12-30 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - finger sticks elevated to 500 (unclear etiology, nurse said he may
   have accidentally received d5w), responded gradually to humalog
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-28**] 08:00 PM
   Cefipime - [**2190-12-29**] 04:11 PM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-30**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 62 (62 - 79) bpm
   BP: 120/51(68) {118/47(65) - 151/57(79)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 6 (1 - 7)mmHg
   Total In:
                                                                  1,882 mL
                                                                    529 mL
   PO:
   TF:
                                                                    962 mL
                                                                    308 mL
   IVF:
                                                                    369 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                  5,420 mL
                                                                  1,365 mL
   Urine:
                                                                  5,220 mL
                                                                  1,365 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,538 mL
                                                                   -836 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 426 (342 - 547) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   7.6 g/dL
   171 mg/dL
   3.0 mg/dL
   36 mEq/L
   3.5 mEq/L
   80 mg/dL
   102 mEq/L
   145 mEq/L
   22.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
   WBC
   4.3
   5.8
   7.7
   11.5
   9.1
   Hct
   22.1
   22.2
   22.6
   22.0
   23.2
   23.4
   22.9
   Plt
   179
   231
   244
   271
   283
   Cr
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   3.1
   3.0
   Glucose
   76
   123
   170
   257
   107
   [**Telephone/Fax (3) 12769**]
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT. Currently off sedation and is
   minimally responsive with poor prognosis per neuro.  MRI concerning for
   anoxic brain injury (hypotensive at OSH initially)
   - likely withdraw care on Friday based on family
s wishes, family
   meeting last night
   -- continue to f/u culture data and supportive care
   -- neuro and id reccs
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) for now which would cover sinusitis as
   well
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- increased lantus to 22u
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Pancreatitis:  CT scan w/o contrast of little utility.  Could see
   such a picture in DKA, but additionally could have pancreatitis which
   precipitated event.  With elevated amylase and pancreatic edema, c/s
   general surgery.  Agree with current manegment and will continue to
   follow.  Resolved; stable
   - trend LFTs, lipase
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - started lasix gtt; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Hypernatremia:  resolved.
   - decrease free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
   # CONTACT: Brother is HCP
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-12-30**] 03:37 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2190-12-30 11:56:00 Physician Attending Progress Note
Chief Complaint: DKA and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with DMI admitted with DKA and now likely anoxic brain injury
   vs injury from severe acidosis.
   24 Hour Events:
   -FSBG 500s, covered with sliding scale insulin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-28**] 08:00 PM
   Cefipime - [**2190-12-29**] 04:11 PM
   Infusions:
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-30**] 06:00 AM
   Other medications:
   Cefepime 2gm IV q24hr
   Vancomycin 750mg IV q24hr
   Chlorhexadine mouth wash
   Labetalol 30mg TID
   Metolazone 5mg [**Hospital1 7**]
   Pantoprazole 40mg IV q12hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-30**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 65 (62 - 79) bpm
   BP: 138/57(76) {118/47(65) - 143/57(77)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 6 (1 - 7)mmHg
   Total In:
                                                                  1,882 mL
                                                                    781 mL
   PO:
   TF:
                                                                    962 mL
                                                                    473 mL
   IVF:
                                                                    369 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  5,420 mL
                                                                  2,305 mL
   Urine:
                                                                  5,220 mL
                                                                  2,305 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -3,538 mL
                                                                 -1,524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 645 (356 - 645) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No blink to threat.  Withdrawing to pain when lower
   extremities pinched.  Grimace to ear pinching.
   Labs / Radiology
   7.6 g/dL
   283 K/uL
   171 mg/dL
   3.0 mg/dL
   36 mEq/L
   3.5 mEq/L
   80 mg/dL
   102 mEq/L
   145 mEq/L
   22.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2190-12-25**]  06:00 PM
                             [**2190-12-26**]  04:21 AM
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
   WBC
   4.3
   5.8
   7.7
   11.5
   9.1
   Hct
   22.1
   22.2
   22.6
   22.0
   23.2
   23.4
   22.9
   Plt
   179
   231
   244
   271
   283
   Cr
   3.2
   3.1
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   3.1
   3.0
   Glucose
   76
   123
   170
   257
   107
   [**Telephone/Fax (3) 12769**]
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   All cultures NGTD
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI vs embolic phenomenon (although
   neurology feels latter is unlikely as all vascular territories
   involved).
   -mild improvement in neurologic exam with some response to noxious
   stimuli
   -family appears to understand there is a minor chance of recovery of
   cognitive function given that we have little clinical experience with
   brain injury due to severe acidosis.  However, they do not want to risk
   a persistent vegetative state.  Will need to discuss with them tomorrow
   if in the setting of mild improvement whether they will continue to
   want to  withdraw insulin, antibiotics, in addition to ventilator
   support tomorrow
   -plan for extubation on Friday
   -in the interim continue meningitis coverage
   -hold sedatives
low grade fevers of unclear etiology although there is a concern for a
   line infection
   -await repeat cultures
   -no eosinophilia to suggest drug reaction
   -given family
s decision to likely withdraw care on Friday will hold on
   PICC placement now
   -if high fevers or hypotension will need to remove central line
ventilator dependence due to altered mental status
   -extubation Friday as above
acute renal failure
   -increase lasix drip for goal out 1-2L daily
   -continue lantus and RISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2190-12-30**] 03:37 AM 40 mL/hour
   Glycemic Control:  lantus with RISS
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM, plan as above
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, no new problems
   Vitals as above
   Intubated, not sedated but poorly responsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: +[**12-11**] edema
   Neuro: Withdrew from pain
 new finding and improved from previous
   exams
   Labs as above
   Assessment:
   1)       Respiratory Failure
   2)       Mental Status Change
 likely anoxia
   3)       Renal Insufficiency
   Plan:
   1)       Continue mechanical ventilation
   2)       Family meeting -> held long discussion and family has decided
   to pursue trach and PEG tube.  Thus, will plan for this
   Time Spent: 35 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2190-12-30**] 06:25 PM ------

2190-12-31 07:37:00 Physician Attending Progress Note
Chief Complaint: DKA and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man admitted with DKA and subsequent anoxic brain injury vs
   injury from severe ketoacidosis, in comatose state requiring
   intubation.
   24 Hour Events:
   -percutaneous trach placed this morning.  Unable to place PEG due to
   overlying colon, plan to have PEG placed in OR on Monday
   -receving sedation with propofol for trach placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-30**] 04:00 PM
   Vancomycin - [**2190-12-30**] 08:51 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-30**] 08:50 PM
   Other medications:
   Metolazone
   Cefepime
   Vancomycin
   Labetalol 300 TID
   Lantus
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-31**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 63 (63 - 70) bpm
   BP: 115/50(65) {115/50(65) - 148/62(83)} mmHg
   RR: 10 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
   CVP: 2 (2 - 6)mmHg
   Total In:
                                                                  1,920 mL
                                                                    158 mL
   PO:
   TF:
                                                                    963 mL
                                                                     14 mL
   IVF:
                                                                    317 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  4,305 mL
                                                                  1,820 mL
   Urine:
                                                                  4,305 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,385 mL
                                                                 -1,662 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 337 (337 - 998) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: examined on propofol.  PERRL.  [**Name8 (MD) 54**] RN withdrew to pain in
   lower extremities this morning before propofol initiated
   Labs / Radiology
   7.7 g/dL
   281 K/uL
   85 mg/dL
   3.1 mg/dL
   39 mEq/L
   3.7 mEq/L
   86 mg/dL
   102 mEq/L
   147 mEq/L
   23.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
   WBC
   5.8
   7.7
   11.5
   9.1
   6.2
   Hct
   22.2
   22.6
   22.0
   23.2
   23.4
   22.9
   23.3
   Plt
   [**Telephone/Fax (3) 12783**]83
   281
   Cr
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   3.1
   3.0
   3.0
   3.1
   Glucose
   170
   257
   107
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 12784**]
   85
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI vs embolic phenomenon (although
   neurology feels latter is unlikely as all vascular territories
   involved).
   -repeat neurologic exam after propofol discontinued
   -family understands uncertain neurologic prognosis but want to give him
   more time to assess neurologic recovery
   -finishing 2 week course of vancomycin and cefepime for presumed
   meningitis
low grade fevers of unclear etiology although there is a concern for a
   line infection
   -fevers now resolved
   -TLC to be removed after PICC line placed
ventilator dependence due to altered mental status
   -after propofol weaned off will place patient on trach collar mask
   -followup CXR after tracheostomy
acute renal failure
   -transition lasix drip to 60mg IV BID with goal net out 1L daily
   -continue lantus and [**Hospital 1565**]
   [**Last Name (un) 12785**] clinic following
   ICU Care
   Nutrition: resume tube feeds
   Glycemic Control:  lantus and regular insulin sliding scale
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   PICC to be placed in IR today
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU today
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, no new changes.
   Vitals as above
   Intubated, unresponsive
   CTA bilaterally
   S1 S2 reg
   Soft NT ND
   No edema or cyanosis
   Labs as above
   Assessment:
   1)       Respiratory Failure
   2)       Anoxic Brain injury
 see previous notes for full discussion
   3)       Renal insufficiency
   Plan:
   1)       Trach/PEG
   2)       PICC line
   3)       D/C lasix drip -> intermittent lasix.  Renal input as planning
   for discharge
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2190-12-31**] 01:19 PM ------

2190-12-31 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- faily meeting; patient withdrew to pain in BLE and to ear. otherwise
   no other new response.  Givn this finding, family meeting to getting
   patiet trach/peg/picc to see if any further neurological improvement
   -- IP called; will do PEG/trach on [**12-31**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-30**] 04:00 PM
   Vancomycin - [**2190-12-30**] 08:51 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-30**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-31**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 63 (63 - 70) bpm
   BP: 115/50(65) {115/50(65) - 148/62(83)} mmHg
   RR: 10 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
    CVP: 2 (2 - 6)mmHg
   Total In:
                                                                  1,920 mL
                                                                    159 mL
   PO:
   TF:
                                                                    963 mL
                                                                     14 mL
   IVF:
                                                                    317 mL
                                                                     45 mL
   Blood products:
   Total out:
                                                                  4,305 mL
                                                                  1,820 mL
   Urine:
                                                                  4,305 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,385 mL
                                                                 -1,661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 337 (337 - 998) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   7.7 g/dL
   85 mg/dL
   3.1 mg/dL
   39 mEq/L
   3.7 mEq/L
   86 mg/dL
   102 mEq/L
   147 mEq/L
   23.3 %
   6.2 K/uL
        [image002.jpg]
                             [**2190-12-26**]  05:30 PM
                             [**2190-12-27**]  03:57 AM
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
   WBC
   5.8
   7.7
   11.5
   9.1
   6.2
   Hct
   22.2
   22.6
   22.0
   23.2
   23.4
   22.9
   23.3
   Plt
   [**Telephone/Fax (3) 12783**]83
   281
   Cr
   3.0
   3.2
   3.0
   3.0
   2.8
   2.8
   3.1
   3.0
   3.0
   3.1
   Glucose
   170
   257
   107
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 12784**]
   85
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially)
   -- likely withdraw care on Friday based on family
s wishes
   -- continue to f/u culture data and supportive care
   -- neuro and id reccs
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) for now which would cover sinusitis as
   well
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - cont lasix gtt; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Pancreatitis:  initially elevated enzymes, now resolved; stable
   # Hypernatremia:  resolved.
   - cont free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-12-20**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2191-01-01 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 52 year old male with a history of DM1
   with a recent insulin pump placement, CRI (Cr 2.3) who presented in
   respiratory distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2190-12-31**] 09:09 AM
 MULTI LUMEN - STOP [**2190-12-31**] 12:15 PM
 PICC LINE - START [**2190-12-31**] 12:24 PM
 BLOOD CULTURED - At [**2191-1-1**] 04:30 AM
   *************************************
   [**12-30**]
   -- faily meeting; patient withdrew to pain in BLE and to ear. otherwise
   no other new response.  Givn this finding, family meeting to getting
   patiet trach/peg/picc to see if any further neurological improvement
   -- IP called; will do PEG/trach on [**12-31**]
   ------------------------------------------------------
   [**1-1**]
   -- Pt trached without difficulty
   -- PICC line placed
   -- IP unable to due percutaeneous PEG, will have to be done in OR on
   monday
   -- switched over to [**Hospital1 7**] diuresis, was negative 2.5L
   -- hct drifting down since admission, asked nurse [**First Name (Titles) **] [**Last Name (Titles) 12799**] stools.
   Giving 1 unit of PRBC.
   -- 6am, spiked temp to 100.7, recultured
   -- failed pressure support trial
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-12-31**] 03:43 PM
   Vancomycin - [**2190-12-31**] 08:56 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-1-1**] 12:09 AM
   Heparin Sodium (Prophylaxis) - [**2191-1-1**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-1**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 69 (61 - 74) bpm
   BP: 125/54(71) {109/46(61) - 157/70(91)} mmHg
   RR: 17 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                    978 mL
                                                                    482 mL
   PO:
             TF:
                                                                    419 mL
                                                                    313 mL
   IVF:
                                                                    354 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    830 mL
   Urine:
                                                                  3,440 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,462 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 375 (169 - 375) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///40/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   248 K/uL
   7.1 g/dL
   161 mg/dL
   3.2 mg/dL
   40 mEq/L
   3.8 mEq/L
   90 mg/dL
   100 mEq/L
   146 mEq/L
   21.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2190-12-27**]  05:47 PM
                             [**2190-12-28**]  03:22 AM
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
   WBC
   7.7
   11.5
   9.1
   6.2
   5.1
   Hct
   22.0
   23.2
   23.4
   22.9
   23.3
   21.7
   Plt
   244
   271
   283
   281
   248
   Cr
   3.0
   3.0
   2.8
   2.8
   3.1
   3.0
   3.0
   3.1
   3.0
   3.2
   Glucose
   107
   311
   159
   [**Telephone/Fax (2) 12800**]5
   161
   Other labs: PT / PTT / INR:10.7/27.5/0.9, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially).  Now ?withdrawing to pain.
   -- trach placed, attempt to wean to pressure support, trach collar
   -- continue to f/u culture data and supportive care
   -- neuro and id reccs
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) likely for 14 day course for
   meningitis though low suspicion
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- increase lantus to 24u
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - cont lasix boluses; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Anemia: Has anemia of chronic inflammation and likely marrow
   suppression.
   -- guaiac stools
   -- getting 1u prbc today
   -- post transfusion hct
   # Pancreatitis:  initially elevated enzymes, now resolved; stable
   # Hypernatremia:  resolved.
   - cont free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-1-1**] 02:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2191-01-02 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - increased lantus 22 ->24u
   - spoke to family, answered questions about the blood transfusion he
   received, discussed prognosis
   - increased free water 100->150 q6h and gave chlorothiazide po x 1 for
   hypernatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-1**] 04:45 PM
   Vancomycin - [**2191-1-1**] 08:11 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-1-1**] 12:09 PM
   Heparin Sodium (Prophylaxis) - [**2191-1-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 75 (66 - 75) bpm
   BP: 140/55(76) {111/46(62) - 154/66(107)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  2,197 mL
                                                                    363 mL
   PO:
             TF:
                                                                    972 mL
                                                                    301 mL
   IVF:
                                                                    320 mL
                                                                     37 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,125 mL
                                                                  1,320 mL
   Urine:
                                                                  2,125 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     72 mL
                                                                   -957 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 181 (181 - 422) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///40/
   Ve: 3.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   8.1 g/dL
   242 mg/dL
   3.2 mg/dL
   40 mEq/L
   4.0 mEq/L
   95 mg/dL
   98 mEq/L
   146 mEq/L
   24.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2190-12-28**]  05:16 PM
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
   WBC
   11.5
   9.1
   6.2
   5.1
   5.0
   Hct
   23.4
   22.9
   23.3
   21.7
   24.5
   24.1
   Plt
   271
   283
   281
   248
   258
   Cr
   2.8
   2.8
   3.1
   3.0
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   Glucose
   159
   267
   418
   171
   197
   85
   161
   118
   242
   Other labs: PT / PTT / INR:12.2/32.1/1.0, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially).  Now ?withdrawing to pain.
   -- trach placed, attempt to wean to pressure support, trach collar
   -- continue to f/u culture data and supportive care
   -- neuro and id reccs
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) likely for 14 day course for
   meningitis though low suspicion
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- increase lantus to 24u
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] recs
   -- q6h FS
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN
   - f/u renal recs
   - cont lasix boluses; goal I/O -1 to -2L/day
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Anemia: Has anemia of chronic inflammation and likely marrow
   suppression.
   -- guaiac stools
   -- getting 1u prbc today
   -- post transfusion hct
   # Pancreatitis:  initially elevated enzymes, now resolved; stable
   # Hypernatremia:  resolved.
   - cont free H2O flush to 100 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinpril giving renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol and uptitrate for goal < 140. currently well
   controlled
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-1-2**] 02:57 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2191-01-03 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- Na still high despite increased free water flushes; given 1L D5W
   -- plan for PEG this AM in OR
   -- Patient noted to have myoclonic jerks this morning, neurology at
   bedside
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-2**] 04:34 PM
   Vancomycin - [**2191-1-2**] 08:59 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-1-2**] 08:59 PM
   Furosemide (Lasix) - [**2191-1-3**] 12:10 AM
   Dextrose 50% - [**2191-1-3**] 05:34 AM
   Heparin Sodium (Prophylaxis) - [**2191-1-3**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-3**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 63 (62 - 72) bpm
   BP: 132/58(76) {122/48(67) - 144/60(82)} mmHg
   RR: 9 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  2,099 mL
                                                                    638 mL
   PO:
             TF:
                                                                    964 mL
                                                                     12 mL
   IVF:
                                                                    420 mL
                                                                    401 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    710 mL
   Urine:
                                                                  2,660 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -561 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 375 (209 - 505) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///40/
   Ve: 9.4 L/min
   Physical Examination
   GEN: trach in place, winces to pain only
   CV: RR, no MRG
   PULM: Coarse breath sounds
   ABD: Benign abdomen, no guarding or rebound
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to pain (winces), pupils ~1mm with some response
   to light, eyes moving in same direction as head movement. No
   spontaneous movement of extremities
   Labs / Radiology
   228 K/uL
   7.6 g/dL
   47 mg/dL
   3.7 mg/dL
   40 mEq/L
   3.5 mEq/L
   104 mg/dL
   101 mEq/L
   148 mEq/L
   23.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
   WBC
   11.5
   9.1
   6.2
   5.1
   5.0
   4.2
   Hct
   23.4
   22.9
   23.3
   21.7
   24.5
   24.1
   23.2
   Plt
   271
   283
   281
   [**Telephone/Fax (3) 12823**]
   Cr
   2.8
   3.1
   3.0
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   Glucose
   [**Telephone/Fax (3) **]97
   85
   161
   118
   242
   47
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.1 mg/dL,
   Mg++:3.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially).  Now ?withdrawing to pain. Presence of myotonic jerks
   concerning, but like medication related and not central given symmetry
   and ongoing response to pain.
   -- trach placed, attempt to wean to pressure support, trach collar
   -- PEG placed, will need to f/u when TF can be initiated
   -- continue to f/u culture data and supportive care
   -- neuro and id reccs
   -- Per neurology team, If myotonic jerks continue by 1pm, will consider
   EEG
   # Low Grade Temps: most likely central process.  No clear infectious
   source present, and still on continued broad spectrum antibiotics. MRI
   with pansinusitis
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) likely for 14 day course for
   meningitis though low suspicion (last day [**1-6**])
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   -- cont basal glucose and HISS
   -- [**Last Name (un) 303**] recs
   -- q4h FS
   # Acute on Chronic Renal Failure:  Likely underlying renal dysfunction
   from diabetic nephropathy.  Suspect acute worsening from volume
   depletion in the setting of hyperosmolar state.  Muddy brown casts c/w
   ATN, now increased bicarbonate.
   - Vanc dosing per renal function
   - f/u renal recs
   - d/c lasix
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Anemia: Has anemia of chronic inflammation and likely marrow
   suppression.
   --stable
   -- guaiac stools
   -- getting 1u prbc today
   -- post transfusion hct
   # Pancreatitis:  initially elevated enzymes, now resolved; stable
   # Hypernatremia:  resolved.
   - cont free H2O flush to 150 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinopril given renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol ;currently well controlled
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 Blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2191-01-03 07:37:00 Physician Attending Progress Note
Chief Complaint: DKA and altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 52 yo man with DKA and persistent vegetative state from prolonged
   acidosis vs anoxic brain injury.
   24 Hour Events:
   -PEG this morning
   -on return from PEG placement with myoclonic jerks but wincing to pain,
   neurology notified
   -persistent hypernatremia despite FWB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-2**] 04:34 PM
   Vancomycin - [**2191-1-2**] 08:59 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-1-2**] 08:59 PM
   Furosemide (Lasix) - [**2191-1-3**] 12:10 AM
   Dextrose 50% - [**2191-1-3**] 05:34 AM
   Heparin Sodium (Prophylaxis) - [**2191-1-3**] 05:35 AM
   Other medications:
   Cefepime 2gm IV q24hr
   Vancomycin 750mg IV q24hr
   Chlorhexadine mouth wash
   Famotidine 20mg daily
   Lasix 60mg IV BID
   Heparin SQ
   Labetalol 300mg daily
   Lantus
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-3**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 63 (62 - 72) bpm
   BP: 132/58(76) {122/48(67) - 144/60(82)} mmHg
   RR: 9 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  2,099 mL
                                                                    670 mL
   PO:
             TF:
                                                                    964 mL
                                                                     12 mL
   IVF:
                                                                    420 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    710 mL
   Urine:
                                                                  2,660 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -561 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 375 (209 - 505) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///40/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Myoclonic jerks with symmetrical movement of
   shoulders.
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Wincing to pain but not moving extremities
   Labs / Radiology
   7.6 g/dL
   228 K/uL
   47 mg/dL
   3.7 mg/dL
   40 mEq/L
   3.5 mEq/L
   104 mg/dL
   101 mEq/L
   148 mEq/L
   23.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2190-12-29**]  02:48 AM
                             [**2190-12-29**]  05:10 PM
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
   WBC
   11.5
   9.1
   6.2
   5.1
   5.0
   4.2
   Hct
   23.4
   22.9
   23.3
   21.7
   24.5
   24.1
   23.2
   Plt
   271
   283
   281
   [**Telephone/Fax (3) 12823**]
   Cr
   2.8
   3.1
   3.0
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   Glucose
   [**Telephone/Fax (3) **]97
   85
   161
   118
   242
   47
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:91.3 %, Lymph:5.6 %, Mono:2.8 %, Eos:0.2 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L, Ca++:8.1 mg/dL,
   Mg++:3.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 Altered Mental Status
 Appears to have been hypotensive at OSH and
   suffered anoxic brain injury by MRI vs embolic phenomenon (although
   neurology feels latter is unlikely as all vascular territories
   involved).
   -myoclonic jerks noted by neurology.  They believe this is in the
   setting of  receiving multiple medications for PEG placement (propofol,
   versed, rocuronium, etc.).  Will not treat for now, if persistent will
   consider EEG
   -completing empiric 14 day course of vancomycin and cefepime for
   meningitis
ventilator dependence due to altered mental status
   -after resolution of myoclonic jerks will try TCM trial
acute on chronic RF
   -hold lasix for today
   -will ask renal to comment
   -continue lantus and [**Hospital 1565**]
   [**Last Name (un) 12785**] clinic following
   ICU Care
   Nutrition: resume tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP: chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU but will need planning for discharge
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   Overnight, no new changes but BUN/cr continues to increase
   Vitals: T 99.2  P 60s  BP 134/58  RR 16  Sat: 100%
   Intubated, poorly responsive
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Labs: As above
   Assessment:
   1)       Persistent mental status change secondary to anoxic injury
   2)       DM I, uncontrolled
   3)       Respiratory Failure
   4)       Renal failure
   Plan:
   1)       PEG placement
   2)       Work on long-term vent facility placement
   3)       Try to wean to trach collar
   4)       Nephrology consult
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2191-1-3**] 05:48 PM ------

2191-01-04 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2191-1-3**] 08:00 AM
   To OR for PEG
 OR RECEIVED - At [**2191-1-3**] 10:30 AM
   --Held lasix for ARF
   --Renal consulted: can sediment consistent with ATN. Started 1/2NS,
   urine lytes, and trend creatinine.  Will need to give free water when
   TF are restarted.
   -- FeUrea: 27%
   --[**Last Name (un) 303**]- half sliding scale while NPO
   --Plan to resume TF tomorrow (tue) per surgery
   --Case manager screening for rehab; will aim for bed Wednesday if all
   looks good from our standpoint
   --Gave 1L LR for Cr 3.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-3**] 04:00 PM
   Vancomycin - [**2191-1-3**] 08:11 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-4**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-4**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 67 (64 - 78) bpm
   BP: 133/61(78) {124/54(74) - 161/100(109)} mmHg
   RR: 8 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  1,775 mL
                                                                    767 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  1,538 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    580 mL
   Urine:
                                                                  1,945 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 638 (17 - 638) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 4 L/min
   Physical Examination
   GEN: trach in place, winces to pain in LE only
   CV: RR, no MRG
   PULM: Coarse breath sounds
   ABD: Benign abdomen, no guarding or rebound
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to pain (winces), pupils ~1mm with some response
   to light, eyes moving in same direction as head movement. No
   spontaneous movement of extremities
   Labs / Radiology
   261 K/uL
   7.7 g/dL
   152 mg/dL
   3.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   101 mg/dL
   102 mEq/L
   148 mEq/L
   24.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
                             [**2191-1-3**]  04:43 PM
                             [**2191-1-4**]  05:23 AM
   WBC
   9.1
   6.2
   5.1
   5.0
   4.2
   9.2
   Hct
   22.9
   23.3
   21.7
   24.5
   24.1
   23.2
   24.6
   Plt
   [**Telephone/Fax (3) 12854**]58
   228
   261
   Cr
   3.0
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   3.7
   3.8
   Glucose
   171
   197
   85
   161
   118
   242
   47
   152
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:64.0 %, Band:1.0 %, Lymph:20.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L,
   Ca++:7.8 mg/dL, Mg++:3.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially).  Now ?withdrawing to pain.
   Myotonic jerks resolved, most likely due to medication related and not
   central given symmetry and ongoing response to pain.
   -- trach placed, attempt to wean to pressure support, trach collar
   -- supportive care
   -- neuro following
   # Low Grade Temps: Afebrile overnight
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) likely for 14 day course for
   meningitis though low suspicion (last day [**1-6**])
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   --Full dose Humalog/Regular once TF begin
   -- cont basal glucose
   -- [**Last Name (un) 303**] recs
   # Acute on Chronic Renal Failure:  Renal consulted given elevated Cr
   3.8 (3.7 yesterday); felt [**Last Name (un) **] [**1-11**] prerenal (overdiuresis) on top of
   previous ATN
   - Held lasix, continue 1/2NS@100 while pt is NPO
   - Vanc dosing per renal function
   - f/u renal recs
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Anemia: Has anemia of chronic inflammation and likely marrow
   suppression.
   --stable
   # Hypernatremia: Will resume free water bolus with TF once restarted
   today (~2L free water deficit with Na back to 144)
   - cont free H2O flush to 250 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinopril given renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol ;currently well controlled
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   -Restart TF today
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU, ongoing screening for chronic vent facility

2191-01-04 11:11:00 Physician Attending Progress Note
Chief Complaint: DKA.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 OR SENT - At [**2191-1-3**] 08:00 AM
   To OR for PEG
 OR RECEIVED - At [**2191-1-3**] 10:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-3**] 04:00 PM
   Vancomycin - [**2191-1-3**] 08:11 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-4**] 05:47 AM
   Other medications:
   labetalol, peridex, insulin, famotidine, colace, vanco, cefepime.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-4**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 62 (62 - 78) bpm
   BP: 132/60(76) {124/54(71) - 161/76(89)} mmHg
   RR: 8 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  1,775 mL
                                                                  1,176 mL
   PO:
             TF:
                                                                     12 mL
   IVF:
                                                                  1,538 mL
                                                                  1,071 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    750 mL
   Urine:
                                                                  1,945 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 237 (237 - 638) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 2.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: clear anteriorly intermittently apneic.
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, diffuse anasarca, stiff digits due to edema.
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: posterior calves bilaterally, and posterior flanks.
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Increased
   Labs / Radiology
   7.7 g/dL
   261 K/uL
   152 mg/dL
   3.8 mg/dL
   34 mEq/L
   3.9 mEq/L
   101 mg/dL
   102 mEq/L
   148 mEq/L
   24.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2190-12-30**]  02:10 AM
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
                             [**2191-1-3**]  04:43 PM
                             [**2191-1-4**]  05:23 AM
   WBC
   9.1
   6.2
   5.1
   5.0
   4.2
   9.2
   Hct
   22.9
   23.3
   21.7
   24.5
   24.1
   23.2
   24.6
   Plt
   [**Telephone/Fax (3) 12854**]58
   228
   261
   Cr
   3.0
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   3.7
   3.8
   Glucose
   171
   197
   85
   161
   118
   242
   47
   152
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:64.0 %, Band:1.0 %, Lymph:20.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L,
   Ca++:7.8 mg/dL, Mg++:3.3 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: none
   Assessment and Plan
 Rash: will d/c cefepime and vanco in 24hours, monitor rash for now.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):
    Continue vent support, unlikely to wean due to apneas.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): not improved s/p
   fluid challenge. Will attempt to run positive today with no saline
   supplementation. Likely tomorrow resume diuresis.
 ALTERED MENTAL STATUS (NOT DELIRIUM): no signs of recovery in the
   last week.
 HYPERGLYCEMIA: Following sugars, [**Last Name (un) 621**] following.
   ICU Care
   Nutrition:
   Comments: resume tube feeds.
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, no new changes in neuro status and no new problems
   Vitals as above
   Trach in place, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Ext: +1 edema
   Labs: as above
   Assessment:
   1)       Anoxic brain injury
   2)       Acute Respiratory Failure
   3)       Renal Insufficiency
   4)       Hypernatremia
   Plan:
   1)       Continue mechanical ventilation
 if no apnea spells, then
   will transition to trach shield
   2)       Continue to work on placement
   3)       Continue to hold diuretics
 nephrology input
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2191-1-4**] 04:54 PM ------

2191-01-05 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Restarted TF per nutrition recs with 250cc free water bolus q6
   -Renal recs:1/2NS @100 b/c feel prerenal etiology; would like more
   aggressive Free water bolus; need to determine longer term/outpatient
   renal follow up and plan
   -[**Last Name (un) 303**]- titrate to full sliding scale dose once TF at goal
   -Neuro- no recs; no sign of cerebral function on exam today
   -Had discussion with brother: [**Name (NI) 1948**] [**Telephone/Fax (1) 12712**] (HCP) will come in
   tomorrow for family mtg
   -Placement: Patient may be accepted at [**Hospital **] rehab (acceptable to
   family) for tomorrow; pending insurance coverage
   - Spoke with son; plan for rehab
   - **Need guardian paperwork filled out, ? ethics/nurses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-4**] 04:00 PM
   Vancomycin - [**2191-1-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-4**] 02:00 PM
   Famotidine (Pepcid) - [**2191-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 63 (62 - 69) bpm
   BP: 141/62(81) {121/52(69) - 147/68(87)} mmHg
   RR: 12 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  3,320 mL
                                                                  1,006 mL
   PO:
             TF:
                                                                    389 mL
                                                                    356 mL
   IVF:
                                                                  2,116 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    800 mL
   Urine:
                                                                  1,600 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,720 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (237 - 560) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.9 L/min
   Physical Examination
   GEN: trach in place, winces to pain in LE only
   CV: RR, no MRG
   PULM: Coarse breath sounds
   ABD: Benign abdomen, no guarding or rebound
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to pain (winces), pupils ~1mm with some response
   to light, eyes moving in same direction as head movement. No
   spontaneous movement of extremities
   Labs / Radiology
   245 K/uL
   7.5 g/dL
   126 mg/dL
   3.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   97 mg/dL
   104 mEq/L
   148 mEq/L
   22.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
                             [**2191-1-3**]  04:43 PM
                             [**2191-1-4**]  05:23 AM
                             [**2191-1-5**]  03:16 AM
   WBC
   6.2
   5.1
   5.0
   4.2
   9.2
   9.6
   Hct
   23.3
   21.7
   24.5
   24.1
   23.2
   24.6
   22.7
   Plt
   [**Telephone/Fax (3) 12873**]
   Cr
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   3.7
   3.8
   3.9
   Glucose
   197
   85
   161
   118
   [**Telephone/Fax (2) 12874**]6
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:64.0 %, Band:1.0 %, Lymph:20.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L,
   Ca++:8.2 mg/dL, Mg++:3.4 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEIZURE, WITH STATUS EPILEPTICUS
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   Patient is a 52 year old male with a history of DM1 with a recent
   insulin pump placement, CRI (Cr 2.3) who presented in respiratory
   distress and altered mental status, found to have profound
   hyperglycemia and metabolic acidosis.
   # Hypoxic brain injury/Encephalopathy:  Precipitating symptoms likely
   from a combination of infection given GPCs in bcx and DKA.  Also
   concern for meningitis given head CT, but cultures remained negative.
   Currently off sedation and is minimally responsive with poor prognosis
   per neuro.  MRI concerning for anoxic brain injury (hypotensive at OSH
   initially).  Now ?withdrawing to pain.
   Myotonic jerks resolved, most likely due to medication related and not
   central given symmetry and ongoing response to pain.
   -- trach placed, attempt to wean to pressure support, trach collar
   -- supportive care
   -- neuro following
   # Low Grade Temps: Afebrile overnight
   -- f/u blood/urine/sputum cultures
   -- CSF cultures negative
   -- cont vanco/cefepime ([**2190-12-23**]) likely for 14 day course for
   meningitis though low suspicion (last day [**1-6**])
   #  Hyperglycemia/Hyperosmolaremia:  Patient presented in DKA in setting
   of ongoing lethargy by family and now with GPCs in BCx from OSH. Blood
   glucose corrected in first 24 hrs with insulin gtt, and was
   transitioned to sc insulin.  Sugars are now under better control.
   --Full dose Humalog/Regular once TF begin
   -- cont basal glucose
   -- [**Last Name (un) 303**] recs
   # Acute on Chronic Renal Failure:  Renal consulted given elevated Cr
   3.8 (3.7 yesterday); felt [**Last Name (un) **] [**1-11**] prerenal (overdiuresis) on top of
   previous ATN
   - Held lasix, continue 1/2NS@100 while pt is NPO
   - Vanc dosing per renal function
   - f/u renal recs
   - avoid nephrotoxic meds
   - 5 pm lytes
   # Anemia: Has anemia of chronic inflammation and likely marrow
   suppression.
   --stable
   # Hypernatremia: Will resume free water bolus with TF once restarted
   today (~2L free water deficit with Na back to 144)
   - cont free H2O flush to 250 q6H; can increase if needed
   # HL: cont home statin, hold ASA
   # HTN:  Holding home lisinopril given renal failure.  Degree of
   hypertension more suggestive of central process.
   - Cont labatolol ;currently well controlled
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-1-5**] 03:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2191-01-05 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Restarted on 1/2NS.
   Stable night otherwise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2191-1-4**] 04:00 PM
   Vancomycin - [**2191-1-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-4**] 02:00 PM
   Famotidine (Pepcid) - [**2191-1-4**] 08:00 PM
   Other medications:
   peridex, labetalol, cefepime, heparin 500 s/c tid, famotidine, colace,
   insulin sliding scale, glargine, vanocmycin, cefepime.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-5**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 70 (62 - 71) bpm
   BP: 138/55(75) {121/52(69) - 149/68(87)} mmHg
   RR: 10 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.5 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  3,320 mL
                                                                  1,224 mL
   PO:
             TF:
                                                                    389 mL
                                                                    526 mL
   IVF:
                                                                  2,116 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                  1,100 mL
   Urine:
                                                                  1,600 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,720 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (467 - 560) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, tender around G-tube, patient grimaces.
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Rash: increaseing in dependent portions.
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: No spontaneous movement, Tone: Increased
   Labs / Radiology
   7.5 g/dL
   245 K/uL
   126 mg/dL
   3.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   97 mg/dL
   104 mEq/L
   148 mEq/L
   22.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2190-12-30**]  05:54 PM
                             [**2190-12-31**]  03:52 AM
                             [**2190-12-31**]  05:31 PM
                             [**2191-1-1**]  04:10 AM
                             [**2191-1-1**]  05:25 PM
                             [**2191-1-2**]  03:54 AM
                             [**2191-1-3**]  04:44 AM
                             [**2191-1-3**]  04:43 PM
                             [**2191-1-4**]  05:23 AM
                             [**2191-1-5**]  03:16 AM
   WBC
   6.2
   5.1
   5.0
   4.2
   9.2
   9.6
   Hct
   23.3
   21.7
   24.5
   24.1
   23.2
   24.6
   22.7
   Plt
   [**Telephone/Fax (2) 12873**]
   Cr
   3.0
   3.1
   3.0
   3.2
   3.2
   3.2
   3.7
   3.7
   3.8
   3.9
   Glucose
   197
   85
   161
   118
   [**Telephone/Fax (2) 12874**]6
   Other labs: PT / PTT / INR:12.5/28.0/1.1, CK / CKMB / Troponin-T:690//,
   ALT / AST:21/26, Alk Phos / T Bili:82/0.1, Amylase / Lipase:702/56,
   Differential-Neuts:64.0 %, Band:1.0 %, Lymph:20.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:257 IU/L,
   Ca++:8.2 mg/dL, Mg++:3.4 mg/dL, PO4:4.5 mg/dL
   Imaging: no new.
   Microbiology: culltures negative todate
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH): continue MMV with apnea episodes.
 Rash: d/c vanco and cefepime today. monitor
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): failed fluid
   challenge will stop 1/2NS. Will given d5W for sodium correction x1L,a
   nd continue FWB.
   Rest of plan per HO note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-1-5**] 07:42 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2190-12-31**] 12:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan as above with the following modifications/emphasis:
   Overnight, no new problems and no change in the neurological status
   Afebrile, vital signs as above
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: +1 edema bilaterally
   Labs: As above
   Assessment:
   1) Anoxic Brain Injury
   2) Acute on chronic renal failure: likely ATN component
 stable and
   renal following
   3) Acute respiratory Failure
   Plan:
   1) Continue mechanical ventilation
   2) Transfer to rehab today
   3) Continue to monitor BUN/Cr at rehab with renal follow-up
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2191-1-5**] 17:23 ------